USRE029153
Employing the procedure of Example III but replacing 4-nitrophenacyl bromide with a substantially equimolecular amount of 4-cyanophenacyl chloride and replacing pyridine with a substantially equimolecular amount of 5-chloropyrimidine there is obtained N-(4-cyanophenacyl) 5-chloropyrimidinium chloride, a solid soluble in water.

reactant | 4-nitrophenacyl bromide | [N+](=O)([O-])C1=CC=C(C(CBr)=O)C=C1 | C8H6BrNO3
reactant | 4-cyanophenacyl chloride | C(#N)C1=CC=C(C(CCl)=O)C=C1 | C9H6ClNO
reactant | 5-chloropyrimidine | ClC=1C=NC=NC1 | C4H3ClN2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(4-cyanophenacyl) 5-chloropyrimidinium chloride | [Cl-].C(#N)C1=CC=C(C(C[N+]2=CN=CC(=C2)Cl)=O)C=C1 | InChI=1S/C13H9ClN3O.ClH/c14-12-6-16-9-17(7-12)8-13(18)11-3-1-10(5-15)2-4-11;/h1-4,6-7,9H,8H2;1H/q+1;/p-1
